US07713982B2
c) 8-chloro-1,3-bis(4,4,4-trifluorobutyl)-3,7-dihydro-1H-purine-2,6-dione
8-chloro-7-(2-propen-1-yl)-1,3-bis(4,4,4-trifluorobutyl)-3,7-dihydro-1H-purine-2,6-dione (478 mg, 1.1 mmol) and morpholine (937 ul, 11 mmol) were degassed with nitrogen in tetrahydrofuran (10 ml) and then tetrakis(triphenylphosphine)palladium(0) (123 mg, 0.11 mmol) was added and the reaction stirred at room temperature overnight. The reaction mixture was partitioned between dichloromethane and hydrochloric acid 2N. The organic phase was separated and reduced to give the crude product. This was purified by aminopropyl SPE (5 g) followed by re-crystallisation from acetonitrile to afford the title compound (75.5 mg, 16.9%). NMR. δH (400 MHz, CDCl3) 1.96-2.13 (m, 4H), 2.15-2.29 (m, 4H), 4.15-4.23 (m, 4H), 12.94 (br. s, 1H); m/z407 [MH+].

reactant | 8-chloro-7-(2-propen-1-yl)-1,3-bis(4,4,4-trifluorobutyl)-3,7-dihydro-1H-purine-2,6-dione | 1.1 mmol, 478 mg | ClC1=NC=2N(C(N(C(C2N1CC=C)=O)CCCC(F)(F)F)=O)CCCC(F)(F)F | C16H17ClF6N4O2
reactant | morpholine | 11 mmol, 937 ul | N1CCOCC1 | C4H9NO
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.11 mmol, 123 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-chloro-1,3-bis(4,4,4-trifluorobutyl)-3,7-dihydro-1H-purine-2,6-dione | 75.5 mg, 16.9% | ClC1=NC=2N(C(N(C(C2N1)=O)CCCC(F)(F)F)=O)CCCC(F)(F)F | C13H13ClF6N4O2
